US04386081
(g) Diethyl 4-(ethoxycarbonyl)phenoxycarbonylphosphonate
From 21.6 g (0.13 mole) of triethylphosphite and 22.8 g (0.10 mole) of 4-ethoxycarbonylphenyl chloroformate. (120° C., 2 hours). Yield 26.1 g (88%). Bp0.01 190°-2° C. nD25 1.4890.

reactant | triethylphosphite | 0.13 mole, 21.6 g | C(C)OP(OCC)OCC | C6H15O3P
reactant | 4-ethoxycarbonylphenyl chloroformate | 0.10 mole, 22.8 g | ClC(=O)OC1=CC=C(C=C1)C(=O)OCC | C10H9ClO4
product | Diethyl 4-(ethoxycarbonyl)phenoxycarbonylphosphonate | C(C)OC(=O)C1=CC=C(OC(=O)P(OCC)(OCC)=O)C=C1 | C14H19O7P
